US07547691B2
(D). Preparation of 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-6-carboxylic acid cyclopropylamide tri-hydrochloride
Diisopropylethylamine (0.210 mL, 1.20 mmol), cyclopropylamine (0.090 mL, 1.3 mmol) and (benzotriazol-1-yloxy)tris(dimethylamino)phosphonium hexafluorophosphate (205 mg, 0.460 mmol) are added successively to a stirred suspension of 2-{5-chloro-2-[3-(4-methyl-piperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-6-carboxylic acid tri-hydrochloride. (195 mg, 0.400 mmol) and LiCl (187 mg, 4.40 mmol) in DMF (4 mL) at ambient temperature under nitrogen, the resultant mixture is heated at 50° C. for 20 hours. After cooling to ambient temperature, the solvent is removed and the residue is subject to chromatography on silica gel, eluting with 2 M NH3/MeOH in dichloromethane 0-8%, to give the free base of the title compound (97 mg). ES+(m/z) 485 (35Cl) and 487 (37Cl) [M+H]. Using the method of Preparation (E) in 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride, the free base is converted to the tri-hydrochloride salt as a yellow solid.

reactant | Diisopropylethylamine | 1.20 mmol, 0.210 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cyclopropylamine | 1.3 mmol, 0.090 mL | C1(CC1)N | C3H7N
reactant | (benzotriazol-1-yloxy)tris(dimethylamino)phosphonium hexafluorophosphate | 0.460 mmol, 205 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 2-{5-chloro-2-[3-(4-methyl-piperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-6-carboxylic acid tri-hydrochloride | Cl.Cl.Cl.ClC=1C(=NC(=NC1)NCCCN1CCN(CC1)C)C1=CC2=C(S1)C=C(C=C2)C(=O)O
reactant | LiCl | 4.40 mmol, 187 mg | [Li+].[Cl-]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-6-carboxylic acid cyclopropylamide tri-hydrochloride | 97 mg | Cl.Cl.Cl.C1(CC1)NC(=O)C=1C=CC2=C(SC(=C2)C2=NC(=NC=C2Cl)NCCCN2CCN(CC2)C)C1 | InChI=1S/C24H29ClN6OS.3ClH/c1-30-9-11-31(12-10-30)8-2-7-26-24-27-15-19(25)22(29-24)21-13-16-3-4-17(14-20(16)33-21)23(32)28-18-5-6-18;;;/h3-4,13-15,18H,2,5-12H2,1H3,(H,28,32)(H,26,27,29);3*1H
